US08735597B2
Synthesis of 3-[4-(Benzoxazol-2-yl)phenyl]-9-phenyl-9H-carbazole
In a 100 mL three-neck flask were put 0.95 g (3.5 mmol) of 2-(4-bromophenyl)benzoxazole, 1.0 g (3.5 mmol) of 9-phenyl-9H-carbazole-3-boronic acid, and 0.074 g (0.24 mmol) of tri(ortho-tolyl)phosphine. To this mixture were added 15 mL of 1,2-dimethoxyethane (abbreviation: DME) and 5 mL of a 2M potassium carbonate aqueous solution. This mixture was degassed under reduced pressure, and then the atmosphere in the flask was replaced with nitrogen. To this mixture was added 7.8 mg (0.035 mmol) of palladium(II)acetate, and the resulting mixture was stirred at 100° C. for 5 hours. After that, toluene was added to this mixture, and this suspension was washed with a saturated aqueous sodium carbonate solution and saturated brine in that order. Then, magnesium sulfate was added to the organic layer to dry it. Next, this mixture was suction filtered, whereby a filtrate was obtained.

reactant | 2-(4-bromophenyl)benzoxazole | 3.5 mmol, 0.95 g | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
reactant | 9-phenyl-9H-carbazole-3-boronic acid | 3.5 mmol, 1.0 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | tri(ortho-tolyl)phosphine | 0.24 mmol, 0.074 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II)acetate | 0.035 mmol, 7.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
product | 3-[4-(Benzoxazol-2-yl)phenyl]-9-phenyl-9H-carbazole | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C=2C=CC=1N(C3=CC=CC=C3C1C2)C2=CC=CC=C2 | C31H20N2O
